### PR TITLE
Add Erdős Problem 1089 (points forcing many distances), linked to the formal proof

### LINKED ISSUE #1289: Erdős Problem 1089
### What is the conjecture

https://www.erdosproblems.com/1089

  Let $g_d(n)$ be minimal such that every collection of $g_d(n)$ points in $\mathbb{R}^d$ determines at least $n$ many distinct distances. Estimate $g_d(n)$. In particular, does $$\lim_{d\to \infty}\frac{g_d(n)}{d^{n-1}}$$ exist?

Status:solved

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1289.

### What changed
Adds `FormalConjectures/ErdosProblems/1089.lean`:
- `distanceCount`, `ForcesDistances d n m` and `g d n` (the least `m` such that every `m` points of `ℝ^d` determine at least `n` distinct distances), copied verbatim from the formal proof;
- `erdos_1089` (`research solved`, `answer(True)`): for `n ≥ 2`, `lim_{d→∞} g_d(n)/d^{n-1}` exists;
- `erdos_1089.variants.bounds_and_limit`: `C(d+1, n-1) + 1 ≤ g_d(n) ≤ C(d+n-1, n-1) + 1` (Aletheia; Bannai–Bannai–Stanton) and the limit is `1/(n-1)!`.

Both are linked to plby/lean-proofs `Erdos1089.erdos_1089` (Codex and GPT-5.6 Sol); the variant is exactly their statement and the main statement is its second half.

### How checked
- Rebuilt the file (Mathlib-only) against this repo's Mathlib: `#print axioms Erdos1089.erdos_1089` → `[propext, Classical.choice, Quot.sound]`.
- Compiled a renamed copy alongside the new file: `Erdos1089.g = Erdos1089Plby.g` is `rfl` and both statements follow directly.
- `lake --wfail build FormalConjectures.ErdosProblems.«1089»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1089.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+  open scoped Classical in
+  P.offDiag.image fun xy => dist xy.1 xy.2
+
+/-- The number of distinct nonzero distances determined by `P`. -/
+noncomputable def distanceCount {d : ℕ} (P : Finset (EuclideanSpace ℝ (Fin d))) : ℕ :=
+  (distanceFinset P).card
+
+/-- Every `m`-point subset of `ℝ^d` determines at least `n` distinct distances. -/
+def ForcesDistances (d n m : ℕ) : Prop :=
+  ∀ P : Finset (EuclideanSpace ℝ (Fin d)), P.card = m → n ≤ distanceCount P
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1089.lean]: let's drop those definitions and instread re-use what we already have in with `minimalDistinctDistances` in `FormalConjecturesForMathlib`

**Review by mo271 — COMMENTED** [review]
Thanks, looks good generally, but let's avoid having duplicate definitions

File: FormalConjectures/ErdosProblems/1089.lean (hunk 1 above)
Comment (Konamiu) [reply FormalConjectures/ErdosProblems/1089.lean]: Done — dropped `distanceFinset`/`distanceCount`/`ForcesDistances` and defined

```lean
noncomputable def g (d n : ℕ) : ℕ :=
  sInf {m : ℕ | n ≤ minimalDistinctDistances (EuclideanSpace ℝ (Fin d)) m}
```

Since `minimalDistinctDistances` is an `sInf` over point sets, this agrees with "every `m` points determine at least `n` distances" exactly when `ℝ^d` has `m`-point sets, i.e. for `d ≥ 1`; the explicit bounds in the variant are therefore stated for `d ≥ 1` (the limit is unaffected). The bridge to plby's proof was re-verified with the new definition (same axioms):

<details>
<summary>Bridge</summary>

```lean
open Filter
open scoped Topology

namespace Bridge1089

/-- `ℝ^d` contains `m`-point sets for every `m` when `d ≥ 1`. -/
lemma exists_finset_card {d : ℕ} (hd : 1 ≤ d) (m : ℕ) :
    ∃ P : Finset (EuclideanSpace ℝ (Fin d)), P.card = m := by
  let e : ℕ → EuclideanSpace ℝ (Fin d) := fun k =>
    (k : ℝ) • EuclideanSpace.single ⟨0, hd⟩ (1 : ℝ)
  have he : Function.Injective e := by
    intro a b hab
    have := congrArg (fun v : EuclideanSpace ℝ (Fin d) => v ⟨0, hd⟩) hab
    simp [e] at this
    exact_mod_cast this
  exact ⟨(Finset.range m).image e, by rw [Finset.card_image_of_injective _ he, Finset.card_range]⟩

lemma distanceCount_eq {d : ℕ} (P : Finset (EuclideanSpace ℝ (Fin d))) :
    Erdos1089Plby.distanceCount P = distinctDistances P := by
  unfold Erdos1089Plby.distanceCount Erdos1089Plby.distanceFinset distinctDistances distanceSet
  congr 1

/-- For `d ≥ 1`, "every `m`-point set determines at least `n` distances" is
`n ≤ minimalDistinctDistances _ m`. -/
lemma forces_iff {d : ℕ} (hd : 1 ≤ d) (n m : ℕ) :
    Erdos1089Plby.ForcesDistances d n m ↔
      n ≤ minimalDistinctDistances (EuclideanSpace ℝ (Fin d)) m := by
  unfold Erdos1089Plby.ForcesDistances minimalDistinctDistances
  constructor
  · intro h
    obtain ⟨P, hP⟩ := exists_finset_card hd m
    refine le_csInf (⟨distinctDistances P, P, hP, rfl⟩ :
      {k : ℕ | ∃ points : Finset (EuclideanSpace ℝ (Fin d)), points.card = m ∧
        distinctDistances points = k}.Nonempty) ?_
    rintro k ⟨Q, hQ, rfl⟩
    rw [← distanceCount_eq]
    exact h Q hQ
  · intro h P hP
    rw [distanceCount_eq]
    exact h.trans (Nat.sInf_le ⟨P, hP, rfl⟩)

lemma g_eq {d : ℕ} (hd : 1 ≤ d) (n : ℕ) : Erdos1089.g d n = Erdos1089Plby.g d n := by
  unfold Erdos1089.g Erdos1089Plby.g
  congr 1
  ext m
  simp only [Set.mem_ofPred_eq, forces_iff hd]

theorem variant_bridge (n : ℕ) (hn : 2 ≤ n) :
    type_of% (Erdos1089.erdos_1089.variants.bounds_and_limit n hn) := by
  obtain ⟨hb, hlim⟩ := Erdos1089Plby.erdos_1089 n hn
  refine ⟨fun d hd => by rw [g_eq hd]; exact hb d, ?_⟩
  refine hlim.congr' ?_
  filter_upwards [eventually_ge_atTop 1] with d hd
  rw [g_eq hd]

theorem erdos_1089_bridge : type_of% Erdos1089.erdos_1089 := by
  show True ↔ _
  simp only [true_iff]
  intro n hn
  exact ⟨_, (variant_bridge n hn).2⟩

end Bridge1089
```
</details>

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
